US07906544B2
2-amino-4-(3-benzyloxycarbonyl-propyl)-imidazole-1-carboxylic acid tert-butyl ester (21).
6-bromo-5-oxo-hexanoic acid benzyl ester (3.42 g, 11.99 mmol) and Boc-guanidine (5.73 g, 35.97 mmol) were dissolved in DMF (35 mL) and allowed to stir at room temperature. After 48 h the DMF was removed under reduced pressure and the residue was taken up in ethyl acetate (100 mL) and washed with water (3×50 mL) and brine (50 mL) before being dried (Na2SO4), filtered and evaporated to dryness. The resulting oil was purified by flash column chromatography (30-100% EtOAc/Hexanes) to obtain the title compound (2.79 g, 66%) as a colorless oil which solidified upon prolonged standing. 1H NMR (400 MHz, CDCl3) δ 7.35 (m, 5H), 6.51 (s, 1H), 5.91 (s, 2H), 5.12 (s, 2H), 2.41 (m, 4H), 1.94 (quint., 2H, J=7.2 Hz), 1.57 (s, 9H); 13C NMR (75 MHz, CDCl3) δ 173.45, 150.31, 149.59, 138.27, 136.36, 128.67, 128.29, 128.27, 107.05, 84.73, 66.23, 33.82, 28.16, 27.62, 23.79; HRMS (ESI) calcd for C19H26N3O4 (MH)+360.1917, found 360.1919.

reactant | 6-bromo-5-oxo-hexanoic acid benzyl ester | 11.99 mmol, 3.42 g | C(C1=CC=CC=C1)OC(CCCC(CBr)=O)=O | C13H15BrO3
reactant | Boc-guanidine | 35.97 mmol, 5.73 g | C(=O)(OC(C)(C)C)NC(=N)N | C6H13N3O2
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 2-amino-4-(3-benzyloxycarbonyl-propyl)-imidazole-1-carboxylic acid tert-butyl ester | 2.79 g, 66% | C(C)(C)(C)OC(=O)N1C(=NC(=C1)CCCC(=O)OCC1=CC=CC=C1)N | C19H25N3O4
